### PR TITLE
[Merged by Bors] - feat(NumberTheory/LSeries): functional equation for the log-derivative of the zeta function

### PR DESCRIPTION
**Pull request by teorth**
Adds `Mathlib/NumberTheory/LSeries/RiemannZetaLogDeriv.lean` with a single result, `logDeriv_riemannZeta_one_sub`: for `s` not an integer with `riemannZeta s ≠ 0`,

  ζ'/ζ (s) = -ζ'/ζ (1 - s) + log (2 π) - digamma s + (π / 2) * tan (π * s / 2)

obtained by logarithmically differentiating the functional equation `riemannZeta_one_sub`, mirroring the existing `Complex.digamma_one_sub`.

As requested by the reviewer, some additional `logDeriv` API has also been added.

---

Placed in a new leaf file because it needs both `riemannZeta` and `Complex.digamma`, which don't currently import
each other.

The code was initially generated by an AI, but then heavily golfed and reviewed by the author.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/LSeries/RiemannZetaLogDeriv.lean [hunk 1]
```diff
@@ -0,0 +1,54 @@
...
+theorem logDeriv_riemannZeta_one_sub {s : ℂ} (hs : ∀ n : ℤ, s ≠ n) (hz : riemannZeta s ≠ 0) :
+    logDeriv riemannZeta s =
+      -logDeriv riemannZeta (1 - s) + log (2 * π) - digamma s + π / 2 * tan (π * s / 2) := by
+  have h2π : 2 * (π : ℂ) ≠ 0 := mod_cast by positivity
+  have (m : ℕ) : s ≠ -m := mod_cast hs (-m)
+  have : s ≠ 1 := mod_cast hs 1
+  have : cos (π * s / 2) ≠ 0 :=
+    mt cos_eq_zero_iff.mp fun ⟨k, _⟩ ↦ hs (2 * k + 1) (mod_cast by grind)
+  have : logDeriv (fun z ↦ (2 * (π : ℂ)) ^ (-z)) s = -log (2 * π) := by
+    simp [logDeriv_apply, ((hasDerivAt_neg' s).const_cpow (Or.inl h2π)).deriv, field]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/RiemannZetaLogDeriv.lean]: This looks like a reasonable API lemma on its own (for `fun z ↦ a ^ z`, more generally); maybe add a version for `a ^ (-z)` for convenience. There should be real and complex versions, I think.

File: Mathlib/NumberTheory/LSeries/RiemannZetaLogDeriv.lean [hunk 2]
```diff
@@ -0,0 +1,54 @@
...
+  have : logDeriv (fun z ↦ cos (π * z / 2)) s = -(π / 2 * tan (π * s / 2)) := by
+    simp [logDeriv_apply, (by simpa using ((hasDerivAt_id s).const_mul _).div_const 2 :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/RiemannZetaLogDeriv.lean]: There is `Complex.logDeriv_cos`, which is likely useful here.

**Comment by MichaelStollBayreuth** [comment]
@teorth I'm re-running the failing CI step. It looks like it's working.

**Comment by teorth** [comment]
-awaiting-author

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM.

**Comment by MichaelStollBayreuth** [comment]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
